US07244759B2
A mixture of 2-amino-2-(3-ethoxy-4-methoxyphenyl)ethanenitrile acetate (8.0 g, 28.5 mmol), sodium acetate (2.6 g, 31 mmol) and 3-nitrophthalic anhydride (5.5 g, 28.5 mmol) in glacial acetic acid (60 mL) was heated to reflux for 5 hours. The mixture was concentrated in vacuo to give an oil. The oil was dissolved in CH2Cl2, and washed with water and brine, and dried over MgSO4. Solvent was removed and the residue was purified by chromatography (SiO2, Hexane: EtOAc 6:4) to give 9.5 g (84%) of 2-(4-nitro-1,3-dioxoisoindolin-2-yl)-2-(3-ethoxy-4-methoxyphenyl)ethanenitrile; mp 155-157° C.; 1H NMR(DMSO-d6) δ 8.31 (d, J=7.8 Hz, 1H), 8.20 (d, =7.2 Hz, 1H), 8.09 (t, J=7.8 Hz, 1H), 7.06-6.91 (m, 3H), 5.59 (t, J=8.0 Hz, 1H), 4.04-3.96 (q, J=7 Hz, 2H), 3.74 (s, 3H), 3.66 (d, J=8 Hz, 2H), 1.31 (t, J=7 Hz, 3H); 13C NMR (DMSO-d6) δ 165.46, 162.69, 149.07, 147.78, 144.45, 136.63, 132.81, 128.81, 128.52, 127.24, 122.39, 119.77, 118.08, 112.46, 111.68, 63.80, 55.48, 50.36, 20.30, 14.60. Analy. Calculated For C20H17N3O6: C, 60.75; H, 4.34; N, 10.63. Found: C, 60.95; H, 4.37; N, 10.50.

reactant | 2-amino-2-(3-ethoxy-4-methoxyphenyl)ethanenitrile acetate | 28.5 mmol, 8.0 g | C(C)(=O)O.NC(C#N)C1=CC(=C(C=C1)OC)OCC
reactant | sodium acetate | 31 mmol, 2.6 g | C(C)(=O)[O-].[Na+]
reactant | 3-nitrophthalic anhydride | 28.5 mmol, 5.5 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(4-nitro-1,3-dioxoisoindolin-2-yl)-2-(3-ethoxy-4-methoxyphenyl)ethanenitrile | 9.5 g, 84% | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C(C#N)C1=CC(=C(C=C1)OC)OCC)=O | C19H15N3O6
